US04657909
N-[2-(Ethylmethylamino)ethyl]-6-formyl-4,7,9-trihydroxy-8-methyl-1-phenazinecarboxamide.
Compounds in accordance with the present invention are prepared from the starting materials 6-formyl-4,7,9-trihydroxy-1-phenazinecarboxylic acid, methyl ester or from 6-formyl-4,7,9-trihydroxy-8-methyl-1-phenazinecarboxylic acid, methyl ester. The former compound, 6-formyl-4,7,9-trihydroxy-1-phenazinecarboxylic acid, methyl ester, is known variously in the chemical literature as lomofungin or lomondomycin and is produced in isoluble quantities from fermentation broth mixtures containing the microorganism Streptomyces lomondensis NRRL 3252 as detailed in U.S. Pat. No. 3,359,165.

reactant | 6-formyl-4,7,9-trihydroxy-1-phenazinecarboxylic acid, methyl ester | C(=O)C1=C2N=C3C(=CC=C(C3=NC2=C(C=C1O)O)C(=O)OC)O | C15H10N2O6
reactant | 6-formyl-4,7,9-trihydroxy-8-methyl-1-phenazinecarboxylic acid, methyl ester | C(=O)C1=C2N=C3C(=CC=C(C3=NC2=C(C(=C1O)C)O)C(=O)OC)O | C16H12N2O6
reactant | lomofungin | COC(=O)C=1C=CC(=C2C1N=C3C(=CC(=C(C3=N2)C=O)O)O)O | C15H10N2O6
reactant | lomondomycin | COC(=O)C1=C2C(=C(C=C1)O)NC3=C(C(=CC(=O)C3=N2)O)C=O | C15H10N2O6
product | N-[2-(Ethylmethylamino)ethyl]-6-formyl-4,7,9-trihydroxy-8-methyl-1-phenazinecarboxamide | C(C)N(CCNC(=O)C1=CC=C(C2=NC3=C(C(=C(C(=C3N=C12)O)C)O)C=O)O)C | C20H22N4O5
